US04129556
34.4 g of a bisazomethine prepared from 2 mols of salicylaldehyde and 1 mol of m-xylylenediamine and having a melting point of 61°-63° C. are hydrogenated for 7 hours in 170 ml of isopropanol in an autoclave in the presence of 4 g of Raney nickel at 85° C. and under a pressure of 60 atmospheres. The catalyst is filtered off and the filtrate is concentrated in a rotary evaporator to give 35.8 g of crude product. 25.7 g are recrystallised from 77 ml of isopropanol and the bulk of the product separates out on cooling in a refrigerator. The precipitate is collected by filtration, washed off with cold isopropanol and dried in vacuo at 40° C., affording 11.0 g (41.8% of theory) of N,N'-bis-(2-hydroxybenzyl)-m-xylylenediamine with a melting point of 67°-68° C.

reactant | salicylaldehyde | 2 mols | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | m-xylylenediamine | 1 mol | C1(=CC(=CC=C1)CN)CN | C8H12N2
solvent | isopropanol | 170 ml | C(C)(C)O | C3H8O
catalyst | Raney nickel | 4 g | [Ni] | Ni
product | N,N'-bis-(2-hydroxybenzyl)-m-xylylenediamine | 11.0 g, 41.8% | OC1=C(CNCC2=CC(=CC=C2)CNCC2=C(C=CC=C2)O)C=CC=C1 | C22H24N2O2
